US05731452
Methyl(11R,12S,13E,15S,17S)-9-butyloxy-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoate (51 mg, 0.11 mmol) was dissolved in acetone (1 ml). To this solution was added a pH 8 phosphate buffer (10 ml). Further esterase (from porcine liver made by Sigma Co., 114 μl) was added and the mixture was stirred at room temperature for five hours. Further in a state with methyl ester remaining, the reaction solution was ice cooled, was made pH 4 by dilute hydrochloric acid, and was saturated by ammonium sulfate. The mixture was extracted by ethyl acetate, the extract was dried, then was concentrated under reduced pressure. The concentrate was purified by thin layer chromatography (developing solvent: ethyl acetate, Rf=0.2) to obtain (11R,12S,13E,15S,17S)-9-butyloxy-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoic acid (7 mg, 14%).

reactant | Methyl(11R,12S,13E,15S,17S)-9-butyloxy-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 0.11 mmol, 51 mg | COC(CCCCCSC1=C(C[C@H]([C@@H]1\C=C\[C@H](C[C@H](CCCC)C)O)O)OCCCC)=O | C26H46O5S
reactant | phosphate | 10 ml, pH 8 | P(=O)([O-])([O-])[O-]
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | (11R,12S,13E,15S,17S)-9-butyloxy-11,15-dihydroxy-17,20-dimethyl-7-thiaprosta-8,13-dienoic acid | 7 mg, 14% | C(CCC)OC1=C(SCCCCCC(=O)O)[C@H]([C@@H](C1)O)\C=C\[C@H](C[C@H](CCCC)C)O | C25H44O5S
